US06982348B2
To a solution of zinc chloride (14.7 g, 108 mmol) in diethyl ether (250 ml) was added sodium borohydride (8.2 g, 216 mmol) and the mixture was stirred at room temperature for 2 hrs. The insoluble material was filtered off. To the filtrate was added a solution of 3-oxo-3-phenyl-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid (22 g, 54 mmol) in diethyl ether (50 ml) and the mixture was stirred at room temperature for 30 min. 1N Hydrochloric acid was added to the reaction solution under ice-cooling for quenching, water (200 ml) was added, and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene) to give ethyl (2RS,3RS)-3-hydroxy-3-phenyl-2-((4-(trifluoromethyl)phenyl)methyl)propionate (15.6 g, 83%) as a colorless oil.

reactant | sodium borohydride | 216 mmol, 8.2 g | [BH4-].[Na+]
reactant | 3-oxo-3-phenyl-2-((4-(trifluoromethyl)phenyl)methyl)propionic acid | 54 mmol, 22 g | O=C(C(C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C17H13F3O3
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 108 mmol, 14.7 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-hydroxy-3-phenyl-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 15.6 g, 83% | OC(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C19H19F3O3
